US07935716B2
At room temperature, 1 ml of a solution of 0.71 g diethyl malonate in tetrahydrofuran was added to a mixture of 0.19 g of sodium hydride and 4 ml of tetrahydrofuran and the mixture was stirred for 20 minutes. At room temperature, 3 ml of a solution of 0.59 g 3,4-dimethyl-2H-1,3-oxazine-2,6(3H)-dione in tetrahydrofuran was added to the mixture, followed by stirring for 2 hours under heat refluxing condition. The reaction mixture was concentrated under reduced pressure. To the residue, 10 ml of water and 12 ml of 2 mol/L hydrochloric acid were added, followed by extraction with ethyl acetate. The organic layer was dried with magnesium sulfate, then filtered and concentrated to obtain 0.57 g of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate represented by the formula:

reactant | diethyl malonate | 0.71 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.19 g | [H-].[Na+]
reactant | 3,4-dimethyl-2H-1,3-oxazine-2,6(3H)-dione | 0.59 g | CN1C(OC(C=C1C)=O)=O | C6H7NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 0.57 g | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
